.SUBCKT MUX2X3H7R A B S0 VDD VSS Y
*.PININFO A:I B:I S0:I Y:O VDD:B VSS:B
XXI2 net19 VDD VSS Y / INV pl=60n pw=570n nl=60n nw=450n
XXI0 S0 VDD VSS S0N / INV pl=60n pw=200n nl=60n nw=160n
XXI7 A VDD VSS AN / INV pl=60n pw=250n nl=60n nw=200n
XXI9 B VDD VSS BN / INV pl=60n pw=250n nl=60n nw=200n
XXI6 S0N S0 AN net19 VDD VSS / TG pl=60n pw=250n nl=60n nw=200n
XXI8 S0 S0N BN net19 VDD VSS / TG pl=60n pw=250n nl=60n nw=200n
.ENDS
