.SUBCKT MUX2X4H7R A B S0 VDD VSS Y
*.PININFO A:I B:I S0:I Y:O VDD:B VSS:B
XXI9 B VDD VSS BN / INV pl=60n pw=310n nl=60n nw=250n
XXI7 A VDD VSS AN / INV pl=60n pw=310n nl=60n nw=250n
XXI0 S0 VDD VSS S0N / INV pl=60n pw=210n nl=60n nw=170n
XXI2 net19 VDD VSS Y / INV pl=60n pw=760n nl=60n nw=600n
XXI8 S0 S0N BN net19 VDD VSS / TG pl=60n pw=310n nl=60n nw=250n
XXI6 S0N S0 AN net19 VDD VSS / TG pl=60n pw=310n nl=60n nw=250n
.ENDS
