.SUBCKT MUXI2X3H7R A B S0 VDD VSS Y
*.PININFO A:I B:I S0:I Y:O VDD:B VSS:B
XXI8 S0 S0N net028 Y VDD VSS / TG pl=60n pw=510n nl=60n nw=435n
XXI7 S0N S0 net030 Y VDD VSS / TG pl=60n pw=510n nl=60n nw=435n
XXI0 S0 VDD VSS S0N / INV pl=60n pw=250n nl=60n nw=200n
XXI9 A VDD VSS net030 / INV pl=60n pw=570n nl=60n nw=450n
XXI10 B VDD VSS net028 / INV pl=60n pw=570n nl=60n nw=450n
.ENDS
