.SUBCKT MUXI2X0P7H7R A B S0 VDD VSS Y
*.PININFO A:I B:I S0:I Y:O VDD:B VSS:B
XXI9 A VDD VSS net030 / INV pl=60n pw=222n nl=60n nw=174n
XXI10 B VDD VSS net028 / INV pl=60n pw=222n nl=60n nw=174n
XXI0 S0 VDD VSS S0N / INV pl=60n pw=190n nl=60n nw=150n
XXI8 S0 S0N net028 Y VDD VSS / TG pl=60n pw=222n nl=60n nw=174n
XXI7 S0N S0 net030 Y VDD VSS / TG pl=60n pw=222n nl=60n nw=174n
.ENDS
