.SUBCKT NAND2BX12H7R AN B VDD VSS Y
*.PININFO AN:I B:I Y:O VDD:B VSS:B
MMM4 net16 AN VDD VDD pm1p2_svt_lp W=760n L=60n m=1
MMM1 Y B VDD VDD pm1p2_svt_lp W=2.28u L=60n m=1
MMM0 Y net16 VDD VDD pm1p2_svt_lp W=2.28u L=60n m=1
MMM5 net16 AN VSS VSS nm1p2_svt_lp W=600n L=60n m=1
MMM2 net20 net16 VSS VSS nm1p2_svt_lp W=1.8u L=60n m=1
MMM3 Y B net20 VSS nm1p2_svt_lp W=1.8u L=60n m=1
.ENDS
